US05364871
A solution of pyridinium dichromate (3.2 g) in N,N-dimethylformamide (10 ml) was added dropwise to a solution of 2-(diaminomethyleneamino)-4-(6-hydroxymethylpyridin-2-yl)thiazole (1.7 g) in N,N-dimethylformamide (17 ml) at -10~-5° C. and the mixture was stirred for 5 hours at the same temperature. The reaction mixture was added to a mixture of ethyl acetate, tetrahydrofuran and water and the mixture was adjusted to pH 10 with potassium carbonate. The separated organic layer was washed with brine, and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 2-(diaminomethyleneamino)-4-(6-formylpyridin-2-yl)thiazole (0.31 g).

reactant | pyridinium dichromate | 3.2 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2-(diaminomethyleneamino)-4-(6-hydroxymethylpyridin-2-yl)thiazole | 1.7 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CO | C10H11N5OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-(6-formylpyridin-2-yl)thiazole | 0.31 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)C=O | C10H9N5OS
